### PR TITLE
[Merged by Bors] - feat: define the positive Fitting component of the representation of a nilpotent Lie algebra

### PR DESCRIPTION
**Pull request by ocfnash**
---

- [x] depends on: #7355

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Weights.lean [hunk 1]
```diff
@@ -249,6 +251,135 @@ instance [LieAlgebra.IsNilpotent R L] [IsNoetherian R M] :
...
+    ⨆ k, (⊥ : LieSubmodule R L M).ucs k = weightSpace M (0 : L → R) := by
+  obtain ⟨k, hk⟩ := (LieSubmodule.isNilpotent_iff_exists_self_le_ucs
+    <| weightSpace M (0 : L → R)).mp inferInstance
+  refine le_antisymm (iSup_ucs_le_weightSpace_zero R L M) (le_trans hk ?_)
+  exact le_iSup (fun k ↦ (⊥ : LieSubmodule R L M).ucs k) k
+
+variable {L}
+
+/-- If `M` is a representation of a nilpotent Lie algebra `L`, and `x : L`, then
+`posFittingCompOf R M x` is the positive Fitting component of the action of `x` on `M`.
```
Comment (kbuzzard) [inline Mathlib/Algebra/Lie/Weights.lean:283]: Is "positive Fitting component" a standard definition? Google is not showing me anything. If it isn't, you could explain what it is here. Whether it is or not, you could add it to Main Definitions in the module docstring.

File: Mathlib/Algebra/Lie/Weights.lean [hunk 2]
```diff
@@ -249,6 +251,135 @@ instance [LieAlgebra.IsNilpotent R L] [IsNoetherian R M] :
...
+
+It is a Lie submodule because `L` is nilpotent. -/
+def posFittingCompOf [LieAlgebra.IsNilpotent R L] (x : L) : LieSubmodule R L M :=
+  { ⨅ k, LinearMap.range (toEndomorphism R L M x ^ k) with
```
Comment (kbuzzard) [inline Mathlib/Algebra/Lie/Weights.lean:287]: A couple of months ago I was terrified by `with` and was removing them from mathlib and making stuff faster. Now Chris Hughes has started adding them in other places and making stuff faster. If you `#print` this definition then you can see a (possibly formerly) dreaded `let src := ...`. Do you understand what's going on well enough to know whether this definition is a better choice than `toSubmodule := ⨅ k, LinearMap.range (toEndomorphism R L M x ^ k), lie_mem := ...`? I don't (and I wish I did).

File: Mathlib/Algebra/Lie/Weights.lean [hunk 3]
```diff
@@ -249,6 +251,135 @@ instance [LieAlgebra.IsNilpotent R L] [IsNoetherian R M] :
...
+lemma posFittingCompOf_le_posFittingComp [LieAlgebra.IsNilpotent R L] (x : L) :
+    posFittingCompOf R M x ≤ posFittingComp R L M := by
+  rw [posFittingComp]; exact le_iSup (posFittingCompOf R M) x
+
+lemma posFittingComp_le_iInf_lowerCentralSeries [LieAlgebra.IsNilpotent R L] :
+    posFittingComp R L M ≤ ⨅ k, lowerCentralSeries R L M k := by
+  simp [posFittingComp]
+
+/-- See also `LieModule.iSup_ucs_eq_weightSpace_zero`. -/
+@[simp] lemma iInf_lowerCentralSeries_eq_posFittingComp
```
Comment (kbuzzard) [inline Mathlib/Algebra/Lie/Weights.lean:357]: Is this original research, in this generality? Do you think you should somewhere be documenting what you are proving about this positive Fitting component? Maybe a section in the module docstring or something?

**Review by kbuzzard — APPROVED** [review]
This looks great to me. I couldn't find anything to say about the code. If some of this stuff is original research or hard to find in the literature, do you think it's worth mentioning somewhere?

File: Mathlib/Algebra/Lie/Weights.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Weights.lean:287]: Thanks, I do not understand this any better but I certainly prefer the term generated by `toSubmodule :=` rather than ` with` so I have applied this suggestion.

File: Mathlib/Algebra/Lie/Weights.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Weights.lean:283]: Thanks I struggled to come up with a good name here. I have just expanded the doc string to try to compensate.

**Comment by ocfnash** [comment]
> This looks great to me. I couldn't find anything to say about the code. If some of this stuff is original research or hard to find in the literature, do you think it's worth mentioning somewhere?

Repeating what I wrote in a now-hidden comment above: I think a small module doc string explanation may be merited when I add the proof of IsCompl (weightSpace M 0) (posFittingComp R L M) (which I have locally but depends on five open PRs).

**Comment by kbuzzard** [comment]
Thanks!

maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge

**Comment by ocfnash** [comment]
The build failure was due to a "No space left on device" error for hoskinson9, so I'll try sending this back to bors in the hopes of getting a different runner.

bors merge
